US09108939B2
1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylsulfinyl)phenyl)-3-((S)-tetrahydrofuran-3-yl)urea
(S)-1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylthio)phenyl)-3-(tetrahydrofuran-3-yl)urea (0.246 mmol, 142 mg) was dissolved in dichloromethane (5 mL) and the solution cooled to 0° C. 3-Chlorobenzoperoxoic acid (0.246 mmol, 42.4 mg) was added and the reaction mixture stirred for 2 hours. The reaction mixture was diluted with methanol and dichloromethane. The reaction mixture was washed with water and the organic layer separated, dried, and concentrated under vacuum. The residue was purified by silica column chromatography (eluting with a dichloromethane/methanol/ammonia gradient) to afford the title compound. MS m/z 594.5 [M+H]+

reactant | (S)-1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylthio)phenyl)-3-(tetrahydrofuran-3-yl)urea | 0.246 mmol, 142 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)SC2=CC=C(C=C2)NC(=O)N[C@@H]2COCC2)C=C1)(F)F | C26H29F6N3O3S
reactant | 3-Chlorobenzoperoxoic acid | 0.246 mmol, 42.4 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylsulfinyl)phenyl)-3-((S)-tetrahydrofuran-3-yl)urea | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)S(=O)C2=CC=C(C=C2)NC(=O)N[C@@H]2COCC2)C=C1)(F)F | C26H29F6N3O4S
